US05158950
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(N-cyclohexylcarbamoyl)acetate
A solution of isoproyl 2-(1,3-dithiol-2-ylidene)-2-(pivaloyloxycarbonyl)acetate (13.2 g) and cyclohexylamine (3.97 g) in methylene chloride (100ml) was stirred at room temperature for 2 hrs. The reaction mixture was washed with aqueous sodium hydroxide solution and water and then evaporated to dryness. The resultant residue was recrystallized from ethyl acetate to afford the pure product. (12.0 g, 91.6%)

reactant | isoproyl 2-(1,3-dithiol-2-ylidene)-2-(pivaloyloxycarbonyl)acetate | 13.2 g | S1C(SC=C1)=C(C(=O)OC(C)C)C(=O)OC(C(C)(C)C)=O | C14H18O5S2
reactant | cyclohexylamine | 3.97 g | C1(CCCCC1)N | C6H13N
solvent | methylene chloride | 100ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-(N-cyclohexylcarbamoyl)acetate | S1C(SC=C1)=C(C(=O)OC(C)C)C(NC1CCCCC1)=O | C15H21NO3S2
